US07145012B2
Preparation of Intermediate 1-(2-Chloro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester (I-1a)
To a stirred solution of 2-chlorophenylhydrazine hydrochloride (22.4 g) and potassium carbonate (34.5 g) in ethanol (250 ml) was added diethyl acetylenedicarboxylate (20 ml) and the resulting mixture was heated at reflux for 18 hours. The reaction mixture was cooled, 6 N hydrochloric acid (75 ml) and water (500 ml) were added sequentially. The reaction mixture was extracted with ethyl acetate, the organic layer washed with water, brine, dried (Na2SO4) and concentrated in vacuo. The resulting gum was stirred with isopropyl ether (250 ml) to afford the title compound (I-1a) as a tan solid, (23 g) after filtering and drying in vacuo.

reactant | 2-chlorophenylhydrazine hydrochloride | 22.4 g | Cl.ClC1=C(C=CC=C1)NN
reactant | potassium carbonate | 34.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl acetylenedicarboxylate | 20 ml | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
reactant | hydrochloric acid | 6 N, 75 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 1-(2-Chloro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)O)C1=C(C=CC=C1)Cl | C12H11ClN2O3
